US07087635B2
In a 2 L flask, 2-bromo-4,6-difluoro-N-carbethoxy aniline (42 g, 150 mmol) in CH3CN (500 mL) is degassed with vacuum and purged with N2. Dichlorobis(triphenylphosphine)palladium(II) (10.5 g, 15 mmol, 10 mol %), followed by CuI (710 mg, 4 mmol, 2.5 mol %) and triethyl amine (41 mL) are added and rinsed in with 100 mL of CH3CN. Trimethylsilyl acetylene (31.8 ml, 225 mmol) is added and reaction is refluxed under N2. Approximately 2 hours later, the starting material is consumed, indicated by TLC (20% ethyl acetate/hexane, UV). The reaction is cooled, filtered, concentrated, and the residue is dissolved in ethyl acetate, washed with H2O, brine, dried (Na2SO4), filtered, concentrated, and is purified by flash chromatography (SiO2, ethyl acetate/hexane gradient) to yield 30 g of 2-(trimethylsilylethynyl)-4,6-difluoro-N-carbethoxyaniline (71%).

reactant | 2-bromo-4,6-difluoro-N-carbethoxy aniline | 150 mmol, 42 g | BrC1=C(NC(=O)OCC)C(=CC(=C1)F)F | C9H8BrF2NO2
reactant | triethyl amine | 41 mL | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilyl acetylene | 225 mmol, 31.8 ml | C[Si](C)(C)C#C | C5H10Si
solvent | CH3CN | 500 mL | CC#N | C2H3N
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 15 mmol, 10.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 4 mmol, 710 mg | [Cu]I
product | 2-(trimethylsilylethynyl)-4,6-difluoro-N-carbethoxyaniline | 30 g, 71% | C[Si](C)(C)C#CC1=C(NC(=O)OCC)C(=CC(=C1)F)F | C14H17F2NO2Si
